US08809267B2
A three-neck round bottom flask equipped with a reflux condenser was charged with chlorosulfonyl isocyanate (2.6 ml, 29.9 mol) and cooled to 0° C. Formic acid (1.13 mL, 29.9 mol) was added dropwise with rapid stirring and with rapid gas evolution observed. Upon complete addition of formic acid, the reaction was allowed to warm to room temperature. After 2 h, the reaction vessel was cooled to 0° C. and (1-difluoromethyl-cyclopropoxy)-triisopropyl-silane (500 mg, 1.89 mol) dissolved in NMP (5 mL) was added dropwise via an addition funnel. The mixture was warmed to RT and TBAF (7 ml, 7 mmol) was added. Stir mixture four days. The reaction mixture was poured into cold saturated aqueous NaCl and extracted with EtOAc two times. After removal of the separated organic solvent, the crude product was purified by column chromatography on silica to provide sulfamic acid 1-difluoromethyl-cyclopropyl ester (10 mg, 2.8% yield): 1H NMR (CDCl3, 300 MHz) δ 6.24 (t, 1H), 5.18 (s, 2H), 1.49 (m, 2H), 1.19 (m, 2H).

reactant | chlorosulfonyl isocyanate | 29.9 mol, 2.6 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | (1-difluoromethyl-cyclopropoxy)-triisopropyl-silane | 1.89 mol, 500 mg | FC(C1(CC1)O[Si](C(C)C)(C(C)C)C(C)C)F | C13H26F2OSi
reactant | TBAF | 7 mmol, 7 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NaCl | [Na+].[Cl-]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | formic acid | C(=O)O | CH2O2
solvent | Formic acid | 29.9 mol, 1.13 mL | C(=O)O | CH2O2
product | sulfamic acid 1-difluoromethyl-cyclopropyl ester | 10 mg, 2.8% yield | FC(C1(CC1)OS(N)(=O)=O)F | C4H7F2NO3S
